US06482829B2
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one
The residue was dissolved in dichloromethane (100 ml), triethyl amine (8.1 mL, 58 mmol) and 3,5-bistrifluoromethyl benzoylchloride (2.65 mL, 15 mmol) were added and the mixture was stirred at room temperature overnight. Water was added, the organic layer was separated and dried. The solvent was evaporated and the residue was purified by flash chromatography on silica gel (methylene chloride/methanol 98:2) to yield the desired product (4.65 g, 85%), MS: m/e=471.2 (M+H+).

reactant | triethyl amine | 58 mmol, 8.1 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-bistrifluoromethyl benzoylchloride | 15 mmol, 2.65 mL | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | 4.65 g, 85% | FC(C=1C=C(C(=O)N2CCC3(C(CNC3=O)C3=CC=CC=C3)CC2)C=C(C1)C(F)(F)F)(F)F | C23H20F6N2O2
